US07312241B2
(4-Methoxy-3-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol was prepared analogously to 3-(4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol using 3,5-dimethoxy-bromobenzene (5.0 g, 23.0 mmol), magnesium turning (0.6 g, 23.0 mmol) and 4-methoxy-3-nitro-benzaldehyde (3.5 g, 19.2 mmol). The crude product was purified by flash chromatography (silica gel, Hexane:EtOAc 1:1) to afford (4-methoxy-3-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol (3.7 g, 60%) as an oil: 1H NMR (CDCl3) δ 7.88 (s, 1H), 7.54-7.50 (dd, J=2, 8 Hz, 1H), 7.04 (d, J=8 Hz, 1H), 6.38 (d, J=1 Hz, 1H), 5.72 (d, J=3 Hz, 1H), 3.93 (s, 3H), 3.76 (s, 6H), 2.45 (d, 2 Hz, 1H).

reactant | 3-(4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol | COC1=C(C=C(C=C1)C1(CC(=CC=C1OC)CO)OC)[N+](=O)[O-] | C16H19NO6
reactant | 3,5-dimethoxy-bromobenzene | 23.0 mmol, 5.0 g | COC=1C=C(C=C(C1)OC)Br | C8H9BrO2
reactant | magnesium | 23.0 mmol, 0.6 g | [Mg] | Mg
reactant | 4-methoxy-3-nitro-benzaldehyde | 19.2 mmol, 3.5 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
product | (4-methoxy-3-nitro-phenyl)-(3,5-dimethoxy-phenyl)-methanol | 3.7 g, 60% | COC1=C(C=C(C=C1)C(O)C1=CC(=CC(=C1)OC)OC)[N+](=O)[O-] | C16H17NO6
